Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
fevers, altered mental status 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo male w bladder CA with urostomy, gallbladder 
CA, undergoing chemo tx for gallbladder cancer who was brought 
to the ED via EMS for mental status changes and fever. Two days 
prior to admission, he began to feel lethargic and stayed in bed 
for over 24 hours. He had poor po intake and poor appetite. He 
denied nausea, vomiting, diarrhea, fevers, chills, night sweats. 
Per report, he did not know his birth date and slurring was his 
speech. EMS was called by his family. His last chemotherapy with 
gemzar was 3 weeks ago and so currently he is not neutropenic.

Upon EMS arrival, he was febrile with Tmax 103, HR 130s BP 
154/74 Sat 100% on non rebreather. He was brought to the ED 
where was found to have positive urinary infection. CXR was 
negative. Blood cultures were sent. He had a nonfocal neuro 
exam: A&Ox2 on exam, did not know date, knew president, family 
says he is at baseline. He has a temperature to 102-103, 
leukocytosis of 13.2,  lactate of 2.3 which decreased to 1.6 
with hydration. He was given 1g tylenol, 1g vancomycin, 2g 
cefepime. Upon transfer to the floor, his vital signs were 99.6 
HR 91 BP 129/71 RR 20 100% on 2L NC.
 
Past Medical History:
Past Oncologic History:
In ___, he underwent a cystoprostatectomy with ileal loop 
conduit and regional lymph node dissection for T3, N0, M0 
transitional cell bladder carcinoma.  A subsequent surveillance 
CT in ___ showed gallbladder wall thickening. MRCP showed 
concern for gallbladder cancer.  An exploratory laparotomy on 
___ revealed a likely cancer and resection was accomplished 
in segments IVB and V of the liver along with a portal 
lymphadenectomy.  The final pathology showed a moderately 
differentiated adenocarcinoma of the gallbladder invading the 
paramuscular connective tissue, pT2.  CA ___ was 287 
preoperatively.  He elected to begin single agent adjuvant 
therapy with Xeloda in ___ of this year.  After six doses, he 
developed chest pain at rest.  A cardiac catheterization was 
performed and it showed diffuse but low-grade cardiac disease 
and no critical lesions.  The Xeloda was discontinued and on the 
planned day one of Gemzar, he was hospitalized for MRSA 
bacteremia with a likely source in the urine.  He completed a 
four-week course of vancomycin and then underwent CyberKnife 
treatment to the right upper quadrant from ___ to ___.  
He was started on adjuvant single agent Gemzar on ___ at a 
1000 mg/m2; days 1, 18, and 15.  The dose was reduced by 10% for 
cycle two because of grade III thrombocytopenia.  His last dose 
of gemzar was ___. 
.
Other Past Medical History:  
Coronary artery disease
Hypercholesterolemia
Glucose intolerance
Hypertension
Remote hx bladder ca s/p ileal conduit.
S/p right carotid endarterectomy in ___
Gallbladder carcinoma s/p cholecystectomy ___
Glaucoma
Osteopenia

 
Social History:
___
Family History:
- Sister who developed breast cancer in her ___  
- Sister with thyroid disease  
- Brother with diabetes  
- Mother died in ___ of MI  
- Father died in ___ of Alzheimer's disease  
 
Physical Exam:
VS: T: 97.7, BP: 110/48 (110-138/48-70), P: 64 (64-87), RR: 16 
(___), 97% on RA
GEN: well-appearing male in NAD, AAO x3
CV: reg rate rhythm, no m/r/g
PULM: CTAB
ABD: BS+, soft, NT, ND, urostomy in place in RLQ
EXT: no edema, DP, ___ 2+ bilaterally
 
Pertinent Results:
Hematology: 
___ 06:00AM BLOOD WBC-6.5 RBC-2.85* Hgb-9.2* Hct-28.9* 
MCV-102* MCH-32.4* MCHC-31.9 RDW-16.8* Plt ___
___ 12:59PM BLOOD WBC-5.3 RBC-2.82* Hgb-9.1* Hct-28.2* 
MCV-100* MCH-32.3* MCHC-32.3 RDW-16.4* Plt ___
___ 06:55AM BLOOD WBC-6.1 RBC-2.94* Hgb-9.5* Hct-28.9* 
MCV-99* MCH-32.4* MCHC-32.8 RDW-16.3* Plt ___
___ 06:30AM BLOOD WBC-8.3 RBC-3.58* Hgb-11.6* Hct-36.6* 
MCV-102* MCH-32.4* MCHC-31.7 RDW-16.4* Plt ___
___ 07:00AM BLOOD WBC-10.7 RBC-3.15* Hgb-10.3* Hct-32.2* 
MCV-102* MCH-32.6* MCHC-31.9 RDW-16.8* Plt ___
___ 01:05PM BLOOD WBC-13.2*# RBC-3.30* Hgb-11.2* Hct-32.6* 
MCV-99* MCH-34.0* MCHC-34.4 RDW-16.9* Plt ___
___ 06:00AM BLOOD Neuts-74* Bands-0 Lymphs-12* Monos-9 
Eos-2 Baso-0 Atyps-1* Metas-1* Myelos-1*
___ 06:55AM BLOOD Neuts-77* Bands-0 Lymphs-7* Monos-14* 
Eos-2 Baso-0 ___ Myelos-0
___ 01:05PM BLOOD Neuts-95* Bands-0 Lymphs-3* Monos-2 Eos-0 
Baso-0 ___ Myelos-0
___ 06:00AM BLOOD ___ PTT-26.4 ___
___ 01:05PM BLOOD ___ PTT-27.4 ___

Chemistries: 
___ 06:00AM BLOOD Glucose-112* UreaN-20 Creat-1.2 Na-145 
K-4.1 Cl-111* HCO3-29 AnGap-9
___ 06:55AM BLOOD Glucose-127* UreaN-21* Creat-1.3* Na-142 
K-3.9 Cl-109* HCO3-24 AnGap-13
___ 06:30AM BLOOD Glucose-133* UreaN-22* Creat-1.4* Na-140 
K-4.0 Cl-105 HCO3-23 AnGap-16
___ 07:00AM BLOOD Glucose-167* UreaN-28* Creat-1.3* Na-137 
K-4.1 Cl-107 HCO3-21* AnGap-13
___ 06:30AM BLOOD ALT-29 AST-35 LD(LDH)-284* CK(CPK)-89 
AlkPhos-89 TotBili-0.4
___ 07:00AM BLOOD ALT-21 AST-25 LD(LDH)-210 CK(CPK)-47 
AlkPhos-79 TotBili-0.4

Cardiac Biomarkers
___ 06:30AM BLOOD CK-MB-4 cTropnT-0.02*
___ 09:10PM BLOOD CK-MB-3 cTropnT-0.03*
___ 03:50PM BLOOD CK-MB-3 cTropnT-0.06*
___ 07:00AM BLOOD CK-MB-3 cTropnT-0.03*
___ 09:15PM BLOOD CK-MB-2 cTropnT-0.04*
___ 01:05PM BLOOD cTropnT-<0.01
___ 06:00AM BLOOD Calcium-8.8 Phos-3.0 Mg-2.1
___ 06:55AM BLOOD Calcium-8.9 Phos-2.5* Mg-2.1
___ 07:00AM BLOOD Albumin-3.4* Calcium-8.4 Phos-1.4* Mg-2.1
___ 07:00PM BLOOD Type-ART pO2-51* pCO2-34* pH-7.44 
calTCO2-24 Base XS-0
___ 07:00PM BLOOD Lactate-1.9
___ 04:26PM BLOOD Lactate-1.6
___ 01:07PM BLOOD Lactate-2.3*
 
Brief Hospital Course:
#UTI: UA was grossly positive for infection. He was febrile to 
102-103 in the ED and up to 104 on the floor. Other signs of 
infection included tachycardia, leukocytosis (WBC 13.2).  His 
urostomy places him at risk of UTI. Given his male gender and 
urostomy, his UTI is classified as complicated UTI. He was 
started on ceftriaxone 1 gm q24h and Meropenem 500 mg IV Q8H. 
Urine Cultures and blood cultures grew pan sensitive e. coli and 
antibiotic changed to ciprfloxacin. 
.
#Tachycardia: Patient had several episodes of tachycardia to 
160s, treated with metoprolol iv. Appeared to be SVT on 
telemetry but may have been atrial tachycardia as HR came down 
slowly with metoprol and did not break as would be expected with 
SVT. Cardiac enzymes were mildly elevated to 0.06 but trended 
down, likely from demand ischemia. Tachycardia likely secondary 
to missing several doses of home metoprolol, volume depletion 
and infection. His dose of metoprolol was increased to 25 mg po 
bid as an outpatient. 

#Altered mental status: He was oriented only to person and 
hospital on arrival to the floor. He was also lethargic. His 
mental status improved by hospital day 2 and was likely 
secondary to acute infection and dehydration. 

___: baseline creatinine 1.0, was elevated to 1.5 on admission. 
Etiology was likely from volume depletion from poor po intake. 
His lisinopril was held and was given IV fluids. His creatinine 
trended down to 1.2 on discharge and his lisinopril was 
restarted. 

#Hypertension: Had an episode of hypertension to 199 in setting 
of missing home meds. He was treated with hydralazine then 
metoprolol increased to 25 mg po tid. BP normal at discharge and 
dischaged on metoprolol 25 mg po bid and lisinopril 20 mg po qd. 


#Gallbladder Cancer: getting treatment with gemzar, last dose 
___, >3 weeks ago, no longer at risk for febrile neutropenia. 
He will follow-up as an outpatient. 

#Bladder Cancer: s/p bladder resection with ileal conduit. 
Urostomy places patient at increased risk for UTI. He will 
follow-up with his outpatient oncologist.
.
# Hx of CAD: Had elevated cardiac biomarkers to 0.06 in setting 
of demand ischemia from tachycardia but now signficant QRS 
changes. He was continued on his home doses of simvastatin, 
metoprolol, aspirin.

 
Medications on Admission:
Bimatoprost (LUMIGAN) 0.03% 1 drop in each eye qHS
BRIMONIDINE [ALPHAGAN P] - 0.15 % Drops - 1 gtt in each eye BID
LISINOPRIL - 10 mg po daily
METOPROLOL TARTRATE - 12.5 mg po BID
PROCHLORPERAZINE MALEATE - 10 mg Tablet po q ___ prn nausea or 
vomiting
RANITIDINE HCL - 150 mg po daily
SIMVASTATIN - 20 mg po daily
ACETAMINOPHEN - 650 mg Tablet - BID prn
ASCORBIC ACID [VITAMIN C] - 1,000 mg po daily
ASPIRIN 81 mg po daily
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM+D] - 500 mg (1,250 mg)-200 
unit po BID
MULTIVITAMIN po daily
VITAMIN B ___ po daily

 
Discharge Medications:
1. brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
2. Lumigan 0.03 % Drops Sig: One (1)  Ophthalmic at bedtime.  
3. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
every six (6) hours.  
4. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. Calcium 500 + D 500 mg(1,250mg) -200 unit Tablet Sig: One (1) 
Tablet PO twice a day.  
8. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO twice 
a day.
Disp:*60 Tablet(s)* Refills:*0*
9. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO twice a 
day as needed for pain.  
10. lisinopril 10 mg Tablet Sig: One (1) Tablet PO once a day.  
11. Vitamin C 1,000 mg Tablet Sig: One (1) Tablet PO once a day. 
 
12. multivitamin  Oral
13. Vitamin B Complex     Capsule Oral
14. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 9 days.
Disp:*18 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary Tract Infection with Sepsis
Bladder Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking part in your care. You were admitted to 
the hospital with fever and confusion. You were found to have a 
urinary tract infection that also spread to the blood. You were 
treated with iv antibiotics until you were no longer having 
fevers. You were then switched to oral antibiotics. The 
instructions for this are: 

ADDED Ciprofloxacin 100 mg twice a day for 9 more days 
(stop ___.

We also INCREASED metoprolol from 12.5 mg twice a day to 25 mg 
twice a day.

 
Followup Instructions:
___